US04169837
Phenyl 2-(4-Methylphenyl)-5-benzoxazolecarboxylate (1d)
A solution containing 4.43 g. (0.016 mole) of 2-(4-methylphenyl)-5-benzoxazolecarbonyl chloride in 50 ml. of methylene chloride was added dropwise to a solution containing 1.88 g. (0.02 mole) of phenol and 0.80 g. (0.02 mole) of sodium hydroxide in 25 ml. of water. After stirring at 50° for 20 hours, the layers were separated and the organic layer was dried (MgSO4) and concentrated to give 2.9 g. (54%) of ld: UV (CH2Cl2) λmax 306 nm (18,200), ε325 =3500.

reactant | 2-(4-methylphenyl)-5-benzoxazolecarbonyl chloride | 0.016 mole | CC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)Cl | C15H10ClNO2
reactant | phenol | 0.02 mole | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 0.02 mole | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Phenyl 2-(4-Methylphenyl)-5-benzoxazolecarboxylate | CC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)OC2=CC=CC=C2 | C21H15NO3
